data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-C(C)(C)C_2-CCC_3-Cl_4-C_5-C(=O)OCC_6-Cl_7-c2ccccc2C","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(Cl)C(=O)C)(C(C)(C)C)CCC","C(C(=O)OCC)(Cl)C(=O)c2ccccc2C"],"products_smiles": ["C1(=C(C)C(=O)C(C(C(C)(C)C)(CCC)C1(C(=O)OCC)Cl)Cl)c2ccccc2C"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(=O)OCC)Cl)([O-])c2ccccc2C","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(C(C)(C)C)(CCC)C(=C([O-])CC)Cl)(C(=O)OCC)Cl)c2ccccc2C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(C(C)(C)C)(CCC)C(Cl)C(=O)CC)(C(=O)OCC)Cl)c2ccccc2C","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(C(C)(C)C)(CCC)C(Cl)C([O-])=CC)(C(=O)OCC)Cl)c2ccccc2C","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)C(=O)C(C(C(C)(C)C)(CCC)C1(C(=O)OCC)Cl)Cl)(c2ccccc2C)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)=C([O-])C(C(C(C)(C)C)(CCC)C1(C(=O)OCC)Cl)Cl)(c2ccccc2C)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C)C(=O)C(C(C(C)(C)C)(CCC)C1(C(=O)OCC)Cl)Cl)c2ccccc2C","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-139_1-c1ccc(C(F)(F)F)cc1_2-CCCC_3-C#Cc1ccccc1_4-c1cscn1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1cscn1)(c1ccc(C(F)(F)F)cc1)(CCCC)(C#Cc1ccccc1)"],"products_smiles": ["C(c1ccc(C(F)(F)F)cc1)(CCCC)(C#Cc1ccccc1)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1cscn1)(c1ccc(C(F)(F)F)cc1)(CCCC)(C#Cc1ccccc1)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](c1ccc(C(F)(F)F)cc1)(CCCC)(C#Cc1ccccc1)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(CCCC)(C#Cc1ccccc1)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
